US06297258B1
4-(2,6-Dimethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A mixture of 250 mg (0.51 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide, and 137 μL (1.02 mmol) of cis-2,6-dimethylpiperidine in 2.25 ml dimethylformamide was stirred at room temperature for 3 hr. The reaction mixture was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The extracts were evaporated to an oil, washed with hexane and dried under reduced pressure to yield 170.4 mg (64%) tan solid: mp 120-122° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.51 mmol, 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | cis-2,6-dimethylpiperidine | 1.02 mmol, 137 μL | C[C@@H]1N[C@@H](CCC1)C | C7H15N
solvent | dimethylformamide | 2.25 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(2,6-Dimethyl-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 170.4 mg, 64% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1C(CCCC1C)C)=O)OC)C#N | C28H29ClFN5O2
